US07851465B2
(Z)-3-(3-Bromobenzyl)-1-(4-methoxybenzyl)-7-chloro-5-(4-methoxyphenyl)-1H-benzo[e][1,4]-diazepin-2(3H)-one.
To a stirred and cooled (dry ice/acetone bath) solution of (Z)-7-chloro-1-(4-methoxybenzyl)-5-(4-methoxyphenyl)-1H-benzo[e][1,4]diazepin-2(3H)-one (6.00 g, 14.2 mmol) in THF (80 mL) was slowly added 1 M KOtBu (21 mL, 21 mmol, 1.5 eq). The resulting deep red mixture was stirred over dry ice/acetone bath ˜10 min followed by the slow addition of a solution of 3-bromobenzyl bromide (5.10 g, 21.4 mmol, 1.5 eq) in THF (15 mL). After stirring another ˜45 min at −78° C., the reaction mixture was quenched with saturated brine and diluted with EtOAc. The organic layer was dried (Na2SO4), filtered and evaporated (rotovap, then high vacuum). Chromatography over silica gel using 10-30% EtOAc/heptane gave 7.08 g (yield of 84%) of the title product. [Note: when using benzyl chlorides as alkylating agents, tetrabutyl ammonium iodide was added along with the alkylating agent at the low temperature]. 1H NMR (300 MHz, CDCl3) δ 3.57 (d, 2H), 3.70 (s, 3H), 3.73 (t, 1H), 3.83 (s, 3H), 4.59 (d, 1H), 5.62 (d, 1H), 6.61 (d, 2H), 6.8-6.9 (m, 4H), 7.2-7.45 (m, 8H), 7.63 (fine d, 1H).

reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | (Z)-7-chloro-1-(4-methoxybenzyl)-5-(4-methoxyphenyl)-1H-benzo[e][1,4]diazepin-2(3H)-one | 14.2 mmol, 6.00 g | ClC1=CC\2=C(N(C(C\N=C2\C2=CC=C(C=C2)OC)=O)CC2=CC=C(C=C2)OC)C=C1 | C24H21ClN2O3
reactant | KOtBu | 21 mmol, 1 M, 21 mL, 1.5 eq | CC(C)(C)[O-].[K+]
reactant | 3-bromobenzyl bromide | 21.4 mmol, 5.10 g, 1.5 eq | BrC=1C=C(CBr)C=CC1 | C7H6Br2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (Z)-3-(3-Bromobenzyl)-1-(4-methoxybenzyl)-7-chloro-5-(4-methoxyphenyl)-1H-benzo[e][1,4]-diazepin-2(3H)-one | 7.08 g, yield of 84% | BrC=1C=C(CC2\N=C(/C3=C(N(C2=O)CC2=CC=C(C=C2)OC)C=CC(=C3)Cl)\C3=CC=C(C=C3)OC)C=CC1 | C31H26BrClN2O3
